US04179563
To a solution of 10.5 g of 2-chloro-3-phenoxypyridine in 25 ml of n-butanol is added 20 g of piperazine and the solution is refluxed for 24 hours. The resulting mixture is concentrated at reduced pressure. The residue is shaken with 500 ml of ether and excess dilute aqueous sodium hydroxide. The organic phase is separated, dried and filtered. The filtrate is concentrated and the product distilled to give 3-phenoxy-2-piperazinylpyridine; bp, 115°-117° C./0.15 mm, crystallized and has a mp 56°-59° C.

reactant | 2-chloro-3-phenoxypyridine | 10.5 g | ClC1=NC=CC=C1OC1=CC=CC=C1 | C11H8ClNO
reactant | piperazine | 20 g | N1CCNCC1 | C4H10N2
solvent | n-butanol | 25 ml | C(CCC)O | C4H10O
product | 3-phenoxy-2-piperazinylpyridine | O(C1=CC=CC=C1)C=1C(=NC=CC1)N1CCNCC1 | C15H17N3O
